US04085100
A mixture of 250 mg of butyl cis-1-benzhydryl-3-phthalimido-4-oxo-2-azetidine carboxylate, 473 mg (1.75 mmole) of potassium persulfate, 307 mg (0.858 mmole) of disodium phosphate dodecahydrate, 9.2 ml of water and 8.4 ml of acetonitrile is thoroughly degassed with argon and then heated to 80°-85° under argon for three hours. The reaction mixture is cooled and the acetonitrile removed on the rotary evaporator. The aqueous residue is saturated with solid sodium chloride and extracted three times with ethyl acetate. The combined organic extractions are washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give crude butyl cis-3-phthalimido-4-oxo-2-azetidinecarboxylate.

reactant | butyl cis-1-benzhydryl-3-phthalimido-4-oxo-2-azetidine carboxylate | 250 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1[C@H]([C@H](C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCCCC | C29H26N2O5
reactant | potassium persulfate | 1.75 mmole, 473 mg | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | disodium phosphate dodecahydrate | 0.858 mmole, 307 mg | O.O.O.O.O.O.O.O.O.O.O.O.P(=O)([O-])([O-])O.[Na+].[Na+]
reactant | water | 9.2 ml | O | H2O
solvent | acetonitrile | 8.4 ml | C(C)#N | C2H3N
product | butyl cis-3-phthalimido-4-oxo-2-azetidinecarboxylate | C1(C=2C(C(N1[C@@H]1[C@@H](NC1=O)C(=O)OCCCC)=O)=CC=CC2)=O | C16H16N2O5
